US04695575
A mixture of 6 parts of ethyl 4-[[1-[(4-fluorophenyl)methyl]1H-benzimidazol-2-yl]methyl]-1-piperidineacetate and 120 parts of a hydrochloric acid solution 6N was stirred and refluxed overnight. The reaction mixture was cooled and filtered. The filtrate was evaporated and the semi-solid residue was taken up in about 120 parts of 2-propanol. The solution was filtered and about 70 parts of 2,2'-oxybispropane were added to the filtrate. After stirring for 2 hours at room temperature, the precipitated product was filtered off, dried overnight in vacuo at 80° C. and pulverized in a mortar, yielding 3 parts (52%) of 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidineacetic acid dihydrochloride. monohydrate; mp. 207.4° C. (457).

reactant | ethyl 4-[[1-[(4-fluorophenyl)methyl]1H-benzimidazol-2-yl]methyl]-1-piperidineacetate | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CC(=O)OCC | C24H28FN3O2
reactant | hydrochloric acid | 6N | Cl | ClH
product | 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidineacetic acid dihydrochloride | 52% | Cl.Cl.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CC(=O)O | InChI=1S/C22H24FN3O2.2ClH/c23-18-7-5-17(6-8-18)14-26-20-4-2-1-3-19(20)24-21(26)13-16-9-11-25(12-10-16)15-22(27)28;;/h1-8,16H,9-15H2,(H,27,28);2*1H
